US04441496
96/4 p-Dioxanone/N-Methyl-2,5-Morpholinedione Copolymer
p-Dioxanone (28.5 g, 0.279 moles), N-methyl-2,5- morpholinedione (1.5 g, 0.01162 moles), 1-dodecanol (0.082 g, 0.00044 moles), and a catalytic amount of stannous octoate (0.06 ml of a 0.33 M toluene solution, 0.0000198 moles) are heated and magnetically mixed in a flame and vacuum dried, sealed glass ampule according to the following temperature/time scheme:

reactant | p-Dioxanone | 0.279 moles, 28.5 g | O1C(COCC1)=O | C4H6O3
reactant | N-methyl-2,5- morpholinedione | 0.01162 moles, 1.5 g | CN1CC(OCC1=O)=O | C5H7NO3
reactant | 1-dodecanol | 0.00044 moles, 0.082 g | C(CCCCCCCCCCC)O | C12H26O
reactant | stannous octoate | CCCCC(CC)C(=O)[O-].CCCCC(CC)C(=O)[O-].[Sn+2]
solvent | toluene | 0.33 M | C1(=CC=CC=C1)C | C7H8
product | p-Dioxanone N-Methyl-2,5-Morpholinedione | O1C(COCC1)=O.CN1CC(OCC1=O)=O | InChI=1S/C5H7NO3.C4H6O3/c1-6-2-5(8)9-3-4(6)7;5-4-3-6-1-2-7-4/h2-3H2,1H3;1-3H2
